US06689760B1
To a 500 mL round-bottomed flask was added 3 g (21.7 mmol) adenosine-5′-diphosphate sodium salt and 200 mL pyridine. After the salt had dissolved. the solution was cooled to 0° C. under nitrogen atmosphere. Trimethylsilyl chloride (85 g, 800 mmol) in 200 mL dichloromethane was added slowly to the solution. After this addition was complete, the reaction was stirred at 35° C. for 8 hr. The pyridine hydrochloride salt was removed by filtration and excess pyridine and dichloromethane removed under high vacuum for 24 hr to yield 19.3 g (21.3 mmol) of TMS-ADP. The product was used without further purification. This synthesis is illustrated in FIG. 4E.

reactant | adenosine-5′-diphosphate sodium salt | 21.7 mmol, 3 g | [Na+].P([O-])(=O)(OP(=O)([O-])[O-])OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)O.[Na+].[Na+]
reactant | pyridine | 200 mL | N1=CC=CC=C1 | C5H5N
reactant | Trimethylsilyl chloride | 800 mmol, 85 g | C[Si](C)(C)Cl | C3H9ClSi
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | Trimethylsilyl Adenosine 5′-Diphosphate | 21.3 mmol, 19.3 g | P(O)(=O)(OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@](O1)(N1C=NC=2C(N)=NC=NC12)[Si](C)(C)C)O)O | C13H23N5O10P2Si
